US05424444
12a. 3-(Cyclohexylamino)-1-(1-methyl-5-pyrrolidinyl)-2-butene-1-one
Diisopropylamine (2.12 g, 21 mmol) and THF (35 mL) were added to a three-necked flask, which was flushed with N2. The solution was stirred with ice cooling, and n-butyllithium (1.6M in hexane, 12.5 mL, 20 mmol) was added dropwise over 20 min. To the resulting solution was added N-(1-methylethylidine)cyclohexanamine (prepared via the procedure of J. Org. Chem., 19:1054, 1954), over a 15 min period while maintaining the temperature at 0°±2° C., and the resulting solution was stirred at 0° C. for 20 min. To this solution was added 1.43 g (10.0 mmol) of N-methyl proline methyl ester over a 1 hr period, with stirring and cooling to maintain a temperature of 0°±2° C. The reaction was quenched by rapid addition of saturated aqueous ammonium chloride solution (10 mL); The layers were separated, and the aqueous layer was extracted one with 10 mL of ethyl acetate. The organic layers were combined and dried over Na2SO4. The solution was decanted from the solids and concentrated on a rotary evaporator to provide the product as a viscous oil (2.50 g). 1H NMR (CDCl3) δ 11.18 (br, 1H), 5.20 (s, 1H), 3.40 (m, 1H), 2.62 (m, 1H), 2.33 (s, 3H), 2.21 (m, 1H), 1.97 (s, 3H), 1.9-1.5 (m, 8H), 1.5-1.0 (m, 6H). 13C NMR (CDCl3) δ 197.48 (s), 163.21 (s), 91.07 (d), 74.43 (d), 56.93 (t), 51.50 (d), 41.34 (q), 36.33 (t), 33.61 (t), 33.58 (t), 30.91 (t), 25.22 (t), 24.26 (t), 23.07 (t), 18.71 (q).

reactant | Diisopropylamine | 21 mmol, 2.12 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 20 mmol, 1.6M, 12.5 mL | C(CCC)[Li]
reactant | N-methyl proline methyl ester | 10.0 mmol, 1.43 g | COC([C@H]1N(CCC1)C)=O | C7H13NO2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 3-(Cyclohexylamino)-1-(1-methyl-5-pyrrolidinyl)-2-butene-1-one | 2.50 g | C1(CCCCC1)NC(=CC(=O)C1CCCN1C)C | C15H26N2O
